US06462038B1
This compound was made from General Method 14 from 7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinolin-2(3H)-one (0.689 g, 1.69 mmol), Tebbe's reagent (3.7 mL, 1.9 mmol) in 11 mL THF to afford 0.728 g of (±)-2,3-dihydro-7-isopropoxy-2-methylene-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinoline, an orange solid after filtration through silica gel. 1H NMR (400 MHz, CDCl3) δ 7.64 (broad s, 1H), 7.49 (s, 1H), 7.29 (s, 1H), 5.59 (hept, 1H, J=6.2), 4.95 (s, 2H), 4.91 (q, 2H, J=9.1), 1.58 (d, 6H, J=6.2). Subsequent treatment of the above solid (0.728 g) as described in General Method 14 with NaBH3CN (0.531 g, 8.45 mmol) and 4.2 mL acetic acid in 8.4 mL dichloroethane afforded 0.366 g (53%) of (±)-2,3-dihydro-7-isopropoxy-2-methyl-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinoline, a yellow solid, after flash chromatography (hexanes:EtOAc, 9:1). Rf 0.28 (9:1 hexanes:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.29 (s, 1H), 7.12 (s, 1H), 7.00 (s, 1H), 5.48 (hept, 1H, J=6.2), 4.26 (dd, ABX, 1H, J=10.7, 2.4), 4.16 (dd, ABX, 1H, J=10.7, 2.8), 3.97-4.07 (m, 1H), 3.77-3.87 (m, 1H), 3.61-3.68 (m, 1H), 1.38 (d, 6H, J=6.2), General Method 15: Hydrolysis of an isopropyl imino ether to a pyridone. A solution of the imino ether in a 3:1 acetic acid:concentrated HCl (0.1-0.2 M) solution was heated at 60-110° C. for 4-16 h. The solution was poured into sat'd NaHCO3 (80 mL/mmol), extracted with EtOAc (2×80 mL/mmol), washed with brine (60 mL/mmol), dried over MgSO4, filtered, concentrated, and purified as indicated.

reactant | 7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinolin-2(3H)-one | 1.69 mmol, 0.689 g | C(C)(C)OC1=NC=2C=C3C(=CC2C(=C1)C(F)(F)F)N(C(CO3)=O)CC(F)(F)F | C17H14F6N2O3
reactant | THF | 11 mL | C1CCOC1 | C4H8O
catalyst | Tebbe's reagent | 1.9 mmol, 3.7 mL | [CH3-].C[Al]C.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Cl-].[Ti+4]
product | (±)-2,3-dihydro-7-isopropoxy-2-methylene-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]oxazino[3,2-g]quinoline | 0.728 g | C(C)(C)OC1=NC=2C=C3C(=CC2C(=C1)C(F)(F)F)N(C(CO3)=C)CC(F)(F)F | C18H16F6N2O2
